US08563575B2
A mixture of 4-(benzyloxy)aniline hydrochloride (2.21 g), 4-methylbenzenesulfonic acid hydrate (0.178 g), and (2-chloropyridin-3-yl)acetic acid (Journal of Medicinal Chemistry, 1990, 33, 2697-2706.) (1.61 g) in 1-pentanol (15 mL) was stirred at 140° C. for 24 h. After cooling to room temperature, the mixture was added to SiO2, and the mixture was concentrated and purified by column chromatography (silica gel, eluted with 0%-50% EtOAc in hexane) to give 1-[4-(benzyloxy)phenyl]-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one (1.39 g) as a pale yellow solid.

reactant | 4-(benzyloxy)aniline hydrochloride | 2.21 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | 4-methylbenzenesulfonic acid hydrate | 0.178 g | O.CC1=CC=C(C=C1)S(=O)(=O)O
reactant | (2-chloropyridin-3-yl)acetic acid | 1.61 g | ClC1=NC=CC=C1CC(=O)O | C7H6ClNO2
solvent | 1-pentanol | 15 mL | C(CCCC)O | C5H12O
product | 1-[4-(benzyloxy)phenyl]-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | 1.39 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(CC=2C1=NC=CC2)=O | C20H16N2O2
